US07179823B1
A mixture of 4-(4-chloromethylphenoxy)methyl-5-methyl-2-phenyloxazole (3.55 g), ethyl 1H-pyrazol-4-carboxylate (1.50 g), potassium carbonate (2.76 g), and N,N-dimethylformamide (25 ml) was stirred at room temperature for 24 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The obtained crystals were collected by filtration, and ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-carboxylate (3.79 g, yield: 91%) was obtained. This was recrystallized from ethyl acetate-hexane. Melting point: 108–109° C.

reactant | 4-(4-chloromethylphenoxy)methyl-5-methyl-2-phenyloxazole | 3.55 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | ethyl 1H-pyrazol-4-carboxylate | 1.50 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-carboxylate | 3.79 g, yield: 91% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=CC(=C2)C(=O)OCC)C=C1 | C24H23N3O4
